US06239151B1
A solution of 0.51 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-(2-ureidoacetyl)valerohydrazide dissolved in 5 ml of 4M hydrogen chloride in dioxan was stirred for 2 hours at room temperature and diluted with diethyl ether. The solid was filtered off, washed with diethyl ether and dried to give 0.36 g of (E)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-(2-ureidoacetyl)valerohydrazide in the form of a white solid.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-(2-ureidoacetyl)valerohydrazide | 0.51 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C(CNC(=O)N)=O)CC(C)C)CC(C)C | C29H45N5O6
solvent | hydrogen chloride | 4M, 5 ml | Cl | ClH
solvent | dioxan | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (E)-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-(2-ureidoacetyl)valerohydrazide | 0.36 g | ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C(CNC(=O)N)=O)CC(C)C)CC(C)C | C24H37N5O5
